US05393755
6-Amino-3-methyl-5-(phenylmethyleneamino)pyrimidine-2,4-dione
6-amino-3-methyl-5-nitrosopyrimidine-2,4-dione (37.5 g=0.22 mol) with 10% palladium on carbon (Pd/C) (1.9 g) and 25% NaOH (25 ml) in 0.75L water. Hydrogenate at 50 psi for 3 hr, filter through Celite, and dilute to 1.5L with water. Adjust to pH 4.5 with HOAc and add benzaldehyde (35 g=0.34 mol). Add 0.5 kg ice, collect the solid, wash with water, then acetonitrile, and dry to give the title compound as a yellow powder.

reactant | 6-amino-3-methyl-5-nitrosopyrimidine-2,4-dione | 0.22 mol, 37.5 g | NC1=C(C(N(C(N1)=O)C)=O)N=O | C5H6N4O3
reactant | NaOH | 25 ml | [OH-].[Na+]
reactant | benzaldehyde | 0.34 mol, 35 g | C(C1=CC=CC=C1)=O | C7H6O
catalyst | palladium on carbon | 1.9 g | [Pd] | Pd
solvent | water | 0.75L | O | H2O
product | 6-Amino-3-methyl-5-(phenylmethyleneamino)pyrimidine-2,4-dione | NC1=C(C(N(C(N1)=O)C)=O)N=CC1=CC=CC=C1 | C12H12N4O2
